US08609680B2
Tert-butyl 2,7-diazaspiro[3.5]nonane-2-carboxylate (21.0 g, 92.8 mmol) and triethylamine (20 mL, 186 mmol) were dissolved in dichloromethane (200 mL). The reaction was cooled to 0° C. and a solution of benzyl 2,5-dioxopyrrolidin-1-yl carbonate (23.1 g, 92.8 mmol) in dichloromethane (25 mL) was added dropwise. The ice-bath was removed and the reaction was stirred at room temperature for 6 hours. The reaction was diluted with dichloromethane (100 mL), washed with 10% aqueous citric acid solution (100 mL), water (100 mL) and brine (100 mL). The organic solution was dried over MgSO4, filtered and concentrated to afford 7-benzyl 2-tert-butyl 2,7-diazaspiro[3.5]nonane-2,7-dicarboxylate (33.5 g, 100%) as colorless oil, which was used in the next step without further purification.

reactant | Tert-butyl 2,7-diazaspiro[3.5]nonane-2-carboxylate | 92.8 mmol, 21.0 g | C1N(CC12CCNCC2)C(=O)OC(C)(C)C | C12H22N2O2
reactant | triethylamine | 186 mmol, 20 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl 2,5-dioxopyrrolidin-1-yl carbonate | 92.8 mmol, 23.1 g | C(OCC1=CC=CC=C1)(ON1C(CCC1=O)=O)=O | C12H11NO5
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 7-benzyl 2-tert-butyl 2,7-diazaspiro[3.5]nonane-2,7-dicarboxylate | 33.5 g, 100% | C1N(CC12CCN(CC2)C(=O)OCC2=CC=CC=C2)C(=O)OC(C)(C)C | C20H28N2O4
